US06969725B2
In analogy to the procedure described in example 1a f], (Z)-2-ethoxy-3-[2-methyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acrylic acid ethyl ester was treated with NaOH to obtain (Z)-2-ethoxy-3-[2-methyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acrylic acid as colorless solid.

reactant | (Z)-2-ethoxy-3-[2-methyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acrylic acid ethyl ester | C(C)OC(/C(=C/C1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C)/OCC)=O | C25H27NO5
reactant | NaOH | [OH-].[Na+]
product | (Z)-2-ethoxy-3-[2-methyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acrylic acid | C(C)O\C(\C(=O)O)=C/C1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C | C23H23NO5
